US08563617B2
267.3 N-(2-{[8-(3-fluorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}ethyl)-1-methyl-1H-pyrrole-3-sulfonamide
2-(8-(3-Fluorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethanamine (50 mg, 0.136 mmol) was dissolved in dichloromethane (2 mL). N,N-Dimethyl-4-aminopyridine (49.7 mg, 0.407 mmol) and 1-methyl-1H-pyrrole-3-sulfonyl chloride (24.4 mg, 0.136 mmol) were added successively. The reaction mixture was stirred at room temperature over night. The reaction was diluted with dichloromethane and washed with water. The organic phase was dried (MgSO4) and the solvent was evaporated in vacuo. The crude product was purified by flash chromatography (silica gel, dichloromethane, methanol). Yield: 31 mg (0.061 mmol, 45%).

reactant | 2-(8-(3-Fluorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yloxy)ethanamine | 0.136 mmol, 50 mg | FC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCN)N2CCCC2)C=CC1 | C23H29FN2O
reactant | 1-methyl-1H-pyrrole-3-sulfonyl chloride | 0.136 mmol, 24.4 mg | CN1C=C(C=C1)S(=O)(=O)Cl | C5H6ClNO2S
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | N,N-Dimethyl-4-aminopyridine | 0.407 mmol, 49.7 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | N-(2-{[8-(3-fluorobenzyl)-7-(pyrrolidin-1-yl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}ethyl)-1-methyl-1H-pyrrole-3-sulfonamide | FC=1C=C(CC2C(CCC=3C=CC(=CC23)OCCNS(=O)(=O)C2=CN(C=C2)C)N2CCCC2)C=CC1 | C28H34FN3O3S
